2183-02-01 07:27:00 Physician Resident Progress Note
Chief Complaint: CHIEF COMPLAINT:  Dyspnea
   .
   .
   HISTORY OF PRESENTING ILLNESS:  Patient is a 57 y/o F w/
   hypercholesterolemia and known severe mitral valve prolapse who
   presented to [**Hospital6 **] ED on [**2183-1-31**] with three days of
   progressive dyspnea with exertion and orthopnea such that she could not
   breath while lying, could only sleep sitting upright.Had been having
   non prod cough, low grade fever for which she took tylenol  By report
   from OSH records, patient reported shortness of breath when lying flat
   for three weeks that had been getting progressively worse.  She
   reported a non-productive cough, and potentially had some sick
   contacts.  She took some tylenol prior to admission, but had no known
   fever.  OSH records do not describe chills, night sweats, or other
   complaints.  Remainder of ROS reportedly negative.AT OSH CXR showed
   bilateral infiltrates with bilateral pleural effusions, EKG showed LBBB
   but no prior to compare. She desated to 89, got 40 IV lasix without
   effect, placed on 100% non rebreather, improved only to 93% then
   intubated for inc work of breathing. Noted to have diastolic murmur,
   Cards consulted,bedside echocardiogram was performed showing severe 4+
   MR transferred to [**Hospital1 19**] for further management. Prior to transfer blood
   cx x 2 drawn and 1gram IV vanc given, levo and rocephin for possible
   endocarditis. Per report, pt was unstable enroute started on
   dobutamine. On arrival to ED, ABG: 7.41/37/215/24 with WBC 16.2, and
   fibrinogen was actually elevated at 644, PTT 25.8, INR 1.1 PT 12.8, UA
   with small blood, nit, leuk negative without signif pyuria/bacteruria.
   She was persistently hypotensive, requiring continued ionotropic
   support, switched from dopa to levo. Transthoracic echo in ER showed
   severe MR with good left ventricular function, no evidence of
   vegetations or abscess. Pt was routed to cath lab for emergent
   catheterization and balloon pump placement along with swan placement.
   .
   Further history could not be obtained at time of admission as patient
   intubated and sedated.
   .
   Review of records show:
   1.  ECHO ([**2168-10-5**]:  The left atrium is mildly dilated.  The left
   ventricular cavity does not appear to be dilated.  Systolic function is
   normal.  The aortic valve (3 leaflets) is normal.  The mitral leaflets
   are diffusely thickened, the posterior leaflet is markedly elongated
   and deformed, and bileaflet prolapse is present.  There is moderate to
   severe mitral regurgitation. The atrial septum is aneurysmal.  No
   shunting across the atrial septum is identified (does not exclude). 2.
   ECHO ([**2169-12-27**]):   Mildly dilated left atrium, otherwise normal cardiac
   chamber sizes. Hyperdynamic left ventricular and right ventricular
   function. Normal aortic valve without aortic insufficiency.  Mildly
   thickened mitral valve with bileaflet late systolic prolapse.
   Moderate-severe mitral regurgitation.  Aneurysmal atrial septum without
   evidence of shunt. Compared with the previous study of 11/95, there has
   been no change.
   .
   3.  ECHO ([**2174-1-20**]):  The left atrium is mildly dilated. Left
   ventricular wall thickness, cavity size, and systolic function
   are normal. Right ventricular chamber size and systolic function
   are normal. The aortic valve leaflets (3) appear structurally
   normal with good leaflet excursion and no aortic regurgitaton.
   The mitral valve leaflets are mildly thickened. There is
   moderate/severe mitral valve prolapse with probable partial flail
   leaflet. At least moderate to severe mitral regurgitation is
   seen. There is no pericardial effusion.
   Compared to the prior study of [**2169-12-27**], there is no significant
   change.  4.  Holter ([**2174-1-19**]):   1. Sinus rhythm with intermittent
   minimal PR prolongation. 2. Frequent isolated VPBs, occasional-frequent
   ventricular couplets, and 12 ventricular triplets,
   without prolonged or symptomatic VT.  VEA most prevalent during
   waking hours of 8:30 am-11:00 pm, least during sleep hours.
   PAST MEDICAL HISTORY:
   1. CARDIAC RISK FACTORS: Diabetes, Dyslipidemia, Hypertension
   2. CARDIAC HISTORY:
   -CABG:
   -PERCUTANEOUS CORONARY INTERVENTIONS:
   -PACING/ICD:
   3. OTHER PAST MEDICAL HISTORY:
   .
   MEDICATIONS:
   tylenol PRN.
   .
   ALLERGIES: NKDA
   .
   SOCIAL HISTORY
   unknown
   .
   FAMILY HISTORY:
   unknown
   .
   24 Hour Events:
 IABP LINE - START [**2183-2-1**] 01:30 AM
 PA CATHETER - START [**2183-2-1**] 01:30 AM
 ARTERIAL LINE - START [**2183-2-1**] 01:30 AM
 SHEATH - START [**2183-2-1**] 01:30 AM
   This am pt overbreathing on vent, moving around on propofol, dropped
   sats. So switched to midazolam.
   Failed SBT this am.
   Vent settings changed to Fi02 of 40 from 50, VTE to 400 from 500
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Heparin Sodium - 1,050 units/hour
   Midazolam (Versed) - 5 mg/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2183-2-1**] 07:25 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**84**] AM
   Tmax: 37.8
C (100
   Tcurrent: 37.8
C (100
   HR: 85 (85 - 86) bpm
   BP: 97/52(76) {80/45(63) - 98/53(77)} mmHg
   RR: 26 (17 - 26) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 68 Inch
    CVP: 11 (11 - 12)mmHg
   PAP: (46 mmHg) / (24 mmHg)
   CO/CI (Fick): (5.6 L/min) / (3.1 L/min/m2)
   Mixed Venous O2% Sat: 74 - 74
   Total In:
                                                                    846 mL
   PO:
   TF:
   IVF:
                                                                    846 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                  2,445 mL
   Urine:
                                                                  1,020 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                      0 mL
                                                                 -1,599 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 500) mL
   Vt (Spontaneous): 413 (413 - 413) mL
   RR (Set): 16
   RR (Spontaneous): 5
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: RR >35
   PIP: 22 cmH2O
   Plateau: 19 cmH2O
   Compliance: 32.1 cmH2O/mL
   SpO2: 100%
   ABG: 7.50/30/80.[**Numeric Identifier 176**]//0
   Ve: 11.8 L/min
   PaO2 / FiO2: 160
   Physical Examination
   Neuro: PERRLA, able to follow commands
   CVS: obscured by IABP
   Resp: ronchorous Bilaterally
   Abd: +bs, soft, nt, nd
   Ext: warm, 1+ pulses, IABP/swan sheath in place at left femoral.
   Labs / Radiology
   258 K/uL
   10.7 g/dL
   3.9 mEq/L
   30.7 %
        [image002.jpg]
                             [**2183-1-31**]  10:27 PM
                             [**2183-2-1**]  12:04 AM
                             [**2183-2-1**]  02:36 AM
                             [**2183-2-1**]  04:35 AM
                             [**2183-2-1**]  06:21 AM
   Hct
   30.7
   Plt
   258
   TCO2
   24
   25
   25
   24
   Other labs: Lactic Acid:1.0 mmol/L
   CXR: IABP, NGT/ETT/Swan in place. perihilar vascular engorgement,
   diffuse interstitial markings consistent with severe pulmonary edema.
   EKG:sinus in 80s, LBBB,qW in III, no old for comparison. marked LAE.
   Assessment and Plan
   .
   ASSESSMENT AND PLAN: 57 y/o woman with hx moderate/severe mitral valve
   prolapse with probable partial flail leaflet on Echo [**2173**], lost to
   follow up, who now presents in cardiogenic shock secondary to  acute
   Mitral valve regurgitation. Acute MR could be [**12-31**] endocarditis given
   symptoms suggestive of URI symptoms prior to presentation. Other
   possibilities include ischemic dx given new LBBB, spontaneous
   degeneration/worsening MVP. No hx trauma
   .
   Acute on chronic mitral valve regurgitation: Natural progression
   disease vs precipitant. IABP in place.
   -heparin with IABP
   Continue abx with vanc/ceftriaxone.
   -surveillance blood cultures.
   -TEE in am to assess for endocarditis.
   -check Rheumatoid factor.
   .
   # CORONARIES: Trop x1 OSH <0.01. Cath showed: Elevated filling
   pressures with Wide open mitral regurg on Left ventrilography, with
   LVEF 50% and clean coronaries indicated non ischemic etiology acute
   MR.
   .
   # Cardiogenic shock: Hemodynamics at time of cath were RA mean 15,
   RVEDP: 20, PCWP: 34, [**Doctor First Name **] 47 A0: 120 indicating RHF/LHF/PAHTN but SVR
   615 indicating vasodilatory component as well which may be [**12-31**] to
   sepsis.  CXR shows pulmonary edema. Weaned off levophed with MAPS above
   60 with IABP.
   -follow I/O. Redose lasix in am.
   Continue diuresis with IV lasix.
   -continue IABP for now.
   .
   Respiratory distress: likely [**12-31**] acute CHF in setting acute MR but also
   has low grade temp, WBC to suggest infection, and endocarditis could
   explain acute on chronic MR.
   Intubated currently with o/n abg showing 02 sat in 70s.
   -serial ABGs. Reasses vent settings in am.
   Currently on propofol, with potential to worsen hypotension. [**Month (only) 51**]
   consider fentanyl/versed instead in am.
   -SBT in am, possible, extubation following TEE.
   -plan for extubation following TEE if passes SBT in am with lightened
   sedation.
   .
   # RHYTHM: Sinus with LBBB.
   -Keep on telemetry
   -am EKG to r/o conduction disease with ? endocarditis.
   .
   #Leukocytosis: ? septic vs stress response.
   -trend
   - check lactate.
   .
   ACCESS: Swan with VIP port.
   A-line.
   peripherals
   Foley
   .
   PROPHYLAXIS:
   -DVT ppx with hep GTT
   -bowel reg: senna/colace.
   -Pain management: propofol.
   -GI prophylaxis: protonix Q12.
   -NPO: ETT, possible extubation
   CODE: Full Code
   .
   COMM: [**Name (NI) 186**].
   .
   DISPO: CCU for now
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   IABP line - [**2183-2-1**] 01:30 AM
   PA Catheter - [**2183-2-1**] 01:30 AM
   Arterial Line - [**2183-2-1**] 01:30 AM
   Sheath - [**2183-2-1**] 01:30 AM
   20 Gauge - [**2183-2-1**] 01:30 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2183-02-02 06:10:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 EKG - At [**2183-2-1**] 09:30 AM
 URINE CULTURE - At [**2183-2-1**] 09:30 AM
 PA CATHETER - STOP [**2183-2-1**] 12:20 PM
 SHEATH - STOP [**2183-2-1**] 12:20 PM
 SPUTUM CULTURE - At [**2183-2-1**] 04:00 PM
 FEVER - 101.3
F - [**2183-2-1**] 09:00 AM
   - discontinued vanc
   - OSH blood cx NGTD
   - pulled Swan
   - repleted Mg, K
   - started TF's
   - [**Year (4 digits) **]: PFO with mod. L-to-R shunt, LVEF>55%, partial posterior mitral
   leaflet flail (P2/P3 scallops most involved), no mass/vegetation on
   mitral valve, severe 4+ MR [**First Name (Titles) 622**] [**Last Name (Titles) 13826**] of systolic flow in the left
   upper pulmonary vei, trivial pericardial effusion
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2183-2-1**] 08:30 AM
   Infusions:
   Heparin Sodium - 825 units/hour
   Fentanyl - 75 mcg/hour
   Midazolam (Versed) - 4 mg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2183-2-1**] 09:00 AM
   Heparin Sodium - [**2183-2-2**] 05:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2183-2-2**] 06:10 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**84**] AM
   Tmax: 38.5
C (101.3
   Tcurrent: 37.6
C (99.7
   HR: 83 (79 - 94) bpm
   BP: 103/57(82) {82/42(62) - 111/61(88)} mmHg
   RR: 16 (16 - 29) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 68 Inch
    CVP: 12 (12 - 16)mmHg
   PAP: (43 mmHg) / (23 mmHg)
   Total In:
                                                                  2,000 mL
                                                                    508 mL
   PO:
   TF:
                                                                     30 mL
                                                                    133 mL
   IVF:
                                                                  1,760 mL
                                                                    175 mL
   Blood products:
   Total out:
                                                                  3,415 mL
                                                                    310 mL
   Urine:
                                                                  1,990 mL
                                                                    310 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,415 mL
                                                                    198 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 446 (446 - 446) mL
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 35
   RSBI Deferred: RR >35
   PIP: 24 cmH2O
   Plateau: 20 cmH2O
   Compliance: 32.1 cmH2O/mL
   SpO2: 95%
   ABG: 7.39/45/90.[**Numeric Identifier 126**]/25/1
   Ve: 6.8 L/min
   PaO2 / FiO2: 180
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   220 K/uL
   9.7 g/dL
   110 mg/dL
   0.6 mg/dL
   25 mEq/L
   4.4 mEq/L
   13 mg/dL
   98 mEq/L
   132 mEq/L
   27.7 %
   9.9 K/uL
        [image002.jpg]
                             [**2183-1-31**]  10:27 PM
                             [**2183-2-1**]  12:04 AM
                             [**2183-2-1**]  02:36 AM
                             [**2183-2-1**]  04:35 AM
                             [**2183-2-1**]  06:21 AM
                             [**2183-2-1**]  09:47 AM
                             [**2183-2-1**]  06:09 PM
                             [**2183-2-2**]  03:40 AM
                             [**2183-2-2**]  03:52 AM
   WBC
   11.6
   9.9
   Hct
   30.7
   27.7
   Plt
   258
   220
   Cr
   0.6
   0.6
   0.6
   TropT
   <0.01
   TCO2
   24
   25
   25
   24
   26
   28
   Glucose
   129
   115
   110
   Other labs: PT / PTT / INR:12.8/48.7/1.1, CK / CKMB /
   Troponin-T:56//<0.01, ALT / AST:13/26, Alk Phos / T Bili:67/0.4,
   Amylase / Lipase:/14, Differential-Neuts:84.3 %, Lymph:10.2 %, Mono:4.7
   %, Eos:0.7 %, Lactic Acid:1.0 mmol/L, Albumin:3.3 g/dL, LDH:259 IU/L,
   Ca++:8.1 mg/dL, Mg++:2.4 mg/dL, PO4:3.4 mg/dL
   Assessment and Plan
   57 y/o woman with hx moderate/severe mitral valve prolapse with
   probable partial flail leaflet on Echo [**2173**], lost to follow up, who now
   presents in cardiogenic shock secondary to  acute Mitral valve
   regurgitation. Acute MR could be [**12-31**] endocarditis given symptoms
   suggestive of URI symptoms prior to presentation. Other possibilities
   include ischemic dx given new LBBB, spontaneous degeneration/worsening
   MVP. No hx trauma
   .
   Acute on chronic mitral valve regurgitation: Natural progression
   disease vs precipitant. IABP in place.
   -heparin with IABP.
   -Plan for OR on Monday for MVR
   Initially on abx given concern for endocarditis. [**Month/Day (2) **] no evidence
   endocarditis.
   -f/u OSH blood cx
   -/fu Rheumatoid factor.
   .
   # CORONARIES: Trop x1 OSH <0.01. Cath showed: Elevated filling
   pressures with Wide open mitral regurg on Left ventrilography, with
   LVEF 50% and clean coronaries indicated non ischemic etiology acute
   MR.
   .
   # Cardiogenic shock: Hemodynamics at time of cath were RA mean 15,
   RVEDP: 20, PCWP: 34, [**Doctor First Name **] 47 A0: 120 indicating RHF/LHF/PAHTN but SVR
   615 with [**Doctor First Name **] this am revealing PFO with shunting.  CXR shows pulmonary
   edema. Weaned off levophed with MAPS above 60 with IABP.
   Continue diuresis with IV lasix.
   -continue IABP for now with plan for MVR on Monday
   .
   Respiratory distress: likely [**12-31**] acute CHF in setting acute MR. [**Name13 (STitle) **]
   negative for vegetation/endocarditis
   Intubated currently with o/n abg showing 02 sat in 70s.
   d/c abx
   -Failed SBT. Will lighten sedation given no OR until Monday.
   .
   # RHYTHM: Sinus with LBBB.
   -Keep on telemetry
   .
   #Leukocytosis: ? septic vs stress response.
   -trend
   - f/u lactate
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2183-2-1**] 09:00 PM 30 mL/hour
   Glycemic Control:
   Lines:
   IABP line - [**2183-2-1**] 01:30 AM
   Arterial Line - [**2183-2-1**] 01:30 AM
   20 Gauge - [**2183-2-1**] 01:30 AM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Heparin gtt)
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2183-02-03 07:49:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - NPO afternight for mitral valve replacement
   - Hct slowly trending down
   - transfused 1 unit PRBC with 40 mg IV Lasix
   - had hypotension to MAP 55 with IV Lasix; increased rate of blood
   transfusion with resolution of hypotension
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2183-2-1**] 08:30 AM
   Infusions:
   Midazolam (Versed) - 3 mg/hour
   Heparin Sodium - 1,125 units/hour
   Fentanyl - 80 mcg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2183-2-2**] 08:15 AM
   Fentanyl - [**2183-2-2**] 02:38 PM
   Furosemide (Lasix) - [**2183-2-2**] 06:59 PM
   Heparin Sodium - [**2183-2-2**] 10:17 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2183-2-3**] 07:49 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**84**] AM
   Tmax: 37.7
C (99.9
   Tcurrent: 37.3
C (99.2
   HR: 81 (74 - 93) bpm
   BP: 106/56(82) {79/43(64) - 117/63(92)} mmHg
   RR: 18 (15 - 18) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 69.5 kg (admission): 68.5 kg
   Height: 68 Inch
             Total In:
                                                                  2,702 mL
                                                                    252 mL
   PO:
             TF:
                                                                    851 mL
   IVF:
                                                                    770 mL
                                                                    252 mL
   Blood products:
                                                                    321 mL
   Total out:
                                                                  1,890 mL
                                                                    305 mL
   Urine:
                                                                  1,890 mL
                                                                    305 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    812 mL
                                                                    -53 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   PIP: 285 cmH2O
   Plateau: 18 cmH2O
   Compliance: 34.6 cmH2O/mL
   SpO2: 97%
   ABG: 7.44/41/116/27/4
   Ve: 7.6 L/min
   PaO2 / FiO2: 232
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   217 K/uL
   10.1 g/dL
   113 mg/dL
   0.5 mg/dL
   27 mEq/L
   4.8 mEq/L
   20 mg/dL
   99 mEq/L
   133 mEq/L
   28.5 %
   9.0 K/uL
        [image002.jpg]
                             [**2183-2-1**]  06:21 AM
                             [**2183-2-1**]  09:47 AM
                             [**2183-2-1**]  06:09 PM
                             [**2183-2-2**]  03:40 AM
                             [**2183-2-2**]  03:52 AM
                             [**2183-2-2**]  04:31 PM
                             [**2183-2-2**]  04:43 PM
                             [**2183-2-3**]  02:11 AM
                             [**2183-2-3**]  04:57 AM
                             [**2183-2-3**]  05:11 AM
   WBC
   9.9
   9.0
   Hct
   27.7
   25.3
   29.3
   28.5
   Plt
   220
   211
   217
   Cr
   0.6
   0.6
   0.5
   TCO2
   24
   26
   28
   25
   29
   Glucose
   115
   110
   113
   Other labs: PT / PTT / INR:12.1/61.3/1.0, CK / CKMB /
   Troponin-T:56//<0.01, ALT / AST:13/26, Alk Phos / T Bili:67/0.4,
   Amylase / Lipase:/14, Differential-Neuts:84.3 %, Lymph:10.2 %, Mono:4.7
   %, Eos:0.7 %, Lactic Acid:1.0 mmol/L, Albumin:3.3 g/dL, LDH:259 IU/L,
   Ca++:8.2 mg/dL, Mg++:2.4 mg/dL, PO4:3.1 mg/dL
   Assessment and Plan
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 MITRAL REGURGITATION (MITRAL INSUFFICIENCY)
   57 y/o woman with hx moderate/severe mitral valve prolapse with
   probable partial flail leaflet on Echo [**2173**], lost to follow up, who now
   presents in cardiogenic shock secondary to acute Mitral valve
   regurgitation.
   #. Acute worsening of mitral valve regurgitation: Likely related to
   natural progression of the patient
s valvular disease. IABP in place.
   Echo showed partial posterior mitral leaflet flail, severe mitral
   regurgitation, and a patent PFO. No evidence for endocarditis on TEE.
   - continue IABP
   - plan for OR Monday
   - f/u OSH blood cx
   # Cardiogenic Shock: CXR showing pulmonary edema. Weaned off levophed
   with MAPS above 60 with IABP. Pt remains intubated.
   - will continue diuresis with IV lasix.
   - continue IABP until sx
   - continue intubation until sx
   .
   #Leukocytosis: likely a stress response [**12-31**] acute process
   - trend fever and WBC and curves
   - f/u culture data (including OSH data)
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2183-2-1**] 09:00 PM 30 mL/hour
   Glycemic Control:
   Lines:
   IABP line - [**2183-2-1**] 01:30 AM
   Arterial Line - [**2183-2-1**] 01:30 AM
   20 Gauge - [**2183-2-1**] 01:30 AM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Heparin gtt)
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   IABP line - [**2183-2-1**] 01:30 AM
   Arterial Line - [**2183-2-1**] 01:30 AM
   20 Gauge - [**2183-2-1**] 01:30 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: